US04230707
K. 3,10-Dihydro-10-oxo-1H-pyrido[1,2-a]thieno[3,4-d]pyrimidine-7-carboxamide
A mixture of 3,10-dihydro-10-oxo-1H-pyrido[1,2-a]thieno[3,4-d]pyrimidine-7-carboxylic acid (4.4 g., 0.018 mol) and 1,1'-carboxyldiimidazole (2.9 g., 0.018 mol) in tetrahydrofuran (300 ml) and dimethylformamide (4 ml) is refluxed under nitrogen for 3.5 hours. The solution is cooled in an ice bath and anhydrous ammonia is bubbled through for 45 minutes. The precipitate is filtered off, washed with hot 0.5 M. aqueous sodium bicarbonate solution, with hot dimethylformamide with ether and dried to give a yellow powder (2.9 g.). mp 285° C. (dec).

reactant | 3,10-dihydro-10-oxo-1H-pyrido[1,2-a]thieno[3,4-d]pyrimidine-7-carboxylic acid | 0.018 mol, 4.4 g | O=C1C2=C(N=C3N1C=C(C=C3)C(=O)O)CSC2 | C11H8N2O3S
reactant | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 3,10-Dihydro-10-oxo-1H-pyrido[1,2-a]thieno[3,4-d]pyrimidine-7-carboxamide | O=C1C2=C(N=C3N1C=C(C=C3)C(=O)N)CSC2 | C11H9N3O2S
